US09169259B2
A mixture of 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (45 mg, 0.11 mmol), 0.5 M ammonia in dioxane solution (23 mg, 1.3 mmol), EDCI (32 mg, 0.163 mmol) and HOBt (22 mg, 0.163 mmol) in dichloromethane (3 mL), DMF (0.5 mL) and Et3N (22 mg, 0.22 mmol) was stirred at room temperature for 16 h. The solution was concentrated in vacuo, washed with water (10 mL×3), and purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=30:1) to give 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamide (13 mg, 29%) as a yellow oil. 1H NMR (300 MHz, DMSO): δ 9.68 (s, 1H), 8.82 (s, 1H), 8.44 (s, 1H), 8.23 (s, 1H), 8.12-7.99 (m, 5H), 7.68 (s, 1H), 7.48-7.43 (m, 2H), 6.74 (d, 1H, J=7.8 Hz), 6.09 (d, 1H, J=8.1 Hz), 4.26-4.21 (m, 1H), 3.58-3.40 (m, 2H), 2.09-2.00 (m, 3H), 1.74-1.70 (m, 1H), 1.15 (d, 3H, J=6.0 Hz). LC-MS: [M+H]+, 414, tR=1.547 min, HPLC: 99.34% at 214 nm, 99.33% at 254 nm, tR=5.357 min.

reactant | 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.11 mmol, 45 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)O)C=C1)C=CN2 | C23H22N6O2
reactant | ammonia | 0.5 M | N | H3N
reactant | dioxane | 1.3 mmol, 23 mg | O1CCOCC1 | C4H8O2
reactant | EDCI | 0.163 mmol, 32 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.163 mmol, 22 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.22 mmol, 22 mg | CCN(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamide | 13 mg, 29% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)N)C=C1)C=CN2 | C23H23N7O
